US07790728B2
5-(3-Fluoropyridin-4-yl)-6-pyridin-3-yl-N-(2,2,2-trifluoro-1-methylethyl)pyrazin-2-amine
An oven dried resealable Schlenk tube was charged with 5-chloro-2-(3-fluoropyridin-4-yl)-3-pyridin-3-ylpyrazine (Preparation 30, 0.100 g, 0.35 mmol), 1,1,1-trifluoropropan-2-amine hydrochloride (0.063 g, 0.42 mmol), caesium carbonate (0.273 g, 0.84 mmol), BINAP (0.0065 g, 0.01 mmol) and toluene (2 mL). The Schlenk tube was subjected to several cycles of evacuation-backfilling with argon, and palladium(II) acetate (0.0015 g, 0.007 mmol) was added. After three new cycles of evacuation-backfilling with argon, the Schlenk tube was capped and placed in an oil bath at 100° C. After stirring overnight, the mixture was cooled and partitioned between ethyl acetate and water. The organic layer was dried (MgSO4) and evaporated and the residue was purified by silica gel chromatography (CH2Cl2/MeOH 95:5) to give the title compound (0.021 g, 17%) as an off-white solid.

reactant | 5-chloro-2-(3-fluoropyridin-4-yl)-3-pyridin-3-ylpyrazine | 0.35 mmol, 0.100 g | ClC=1N=C(C(=NC1)C1=C(C=NC=C1)F)C=1C=NC=CC1 | C14H8ClFN4
reactant | 1,1,1-trifluoropropan-2-amine hydrochloride | 0.42 mmol, 0.063 g | Cl.FC(C(C)N)(F)F
reactant | caesium carbonate | 0.84 mmol, 0.273 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 0.01 mmol, 0.0065 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
catalyst | palladium(II) acetate | 0.007 mmol, 0.0015 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(3-Fluoropyridin-4-yl)-6-pyridin-3-yl-N-(2,2,2-trifluoro-1-methylethyl)pyrazin-2-amine | 0.021 g, 17% | FC=1C=NC=CC1C=1N=CC(=NC1C=1C=NC=CC1)NC(C(F)(F)F)C | C17H13F4N5
